US06489342B2
5-Fluoro-3-{1-[2-(1H-indol-4-yloxy)ethyl]-piperidin-4-ylmethyl}-1H-indole
To a solution of 5-fluoro-3-[(4-piperidinyl)methyl]-1H-indole (0.84 g, 3.6 mmol) in acetonitrile (50 mL) was added 4-(2-chloroethoxy)-1H-indole (0.59 g, 3.6 mmol), potassium carbonate (0.48 g) followed by addition of potassium iodide (0.60 g) at room temperature. The reaction mixture was heated to reflux for 5 h and cooled. The reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel column chromatography (methylene chloride/methanol, 95/5) to 0.45 g (38%) of a white foam. The free base (0.23 g, 0.59 mmol) was dissolved in ethyl acetate, and precipitated with one equivalent of HCl in ether to give the title compound (0.16 g, 62%) as monohydrochloride, 1.0 hydrate: mp 215° C. (dec.); 1H NMR (DMSO, 400 MHz), 1.52-1.59 (m, 2H), 1.81-1.84 (m, 3H), 2.61 (d, 2H), 3.02-3.08 (m, 2H), 3.25-3.30 (m, 6H), 4.46 (t, 2H), 6.44-7.33 (m, 9H), 10.25 (br s, 1H), 10.98 (br s, 1H), 11.14 (br s, 1H); MS (FAB) m/z 392 (M+H)+.

reactant | 5-fluoro-3-[(4-piperidinyl)methyl]-1H-indole | 3.6 mmol, 0.84 g | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
reactant | 4-(2-chloroethoxy)-1H-indole | 3.6 mmol, 0.59 g | ClCCOC1=C2C=CNC2=CC=C1 | C10H10ClNO
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.60 g | [I-].[K+]
reactant | HCl | one equivalent | Cl | ClH
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 5-Fluoro-3-{1-[2-(1H-indol-4-yloxy)ethyl]-piperidin-4-ylmethyl}-1H-indole | 0.16 g, 62% | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)CCOC1=C2C=CNC2=CC=C1 | C24H26FN3O
